US05684017
2-Benzoyl-chromone
Combine chromone-2-carboxylic acid chloride (2.0 g, 9.6 mmol) and aluminum chloride (3.84 g, 28.7 mmol) in benzene (70 mL). Heat at reflux for 4 hours. Pour the reaction mixture into ice-water (150 mL). Extract with dichloromethane twice. Dry the separated organic layers over MgSO4, filter, and evaporate in vacuo. Chromatograph on silica gel eluting with 15% ethyl acetate/hexane. Evaporate the product containing fractions to give the title compound as a solid.

reactant | chromone-2-carboxylic acid chloride | 9.6 mmol, 2.0 g | O1C(=CC(C2=CC=CC=C12)=O)C(=O)Cl | C10H5ClO3
reactant | aluminum chloride | 28.7 mmol, 3.84 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | benzene | 70 mL | C1=CC=CC=C1 | C6H6
product | 2-Benzoyl-chromone | C(C1=CC=CC=C1)(=O)C=1OC2=CC=CC=C2C(C1)=O | C16H10O3
